US06080750
6-Chloro-2,5-diamino-4-[(2-hydroxyethyl)amino]pyrimidine (compound No. 111)
To 2-amino-6-chloro-5-[(p-chlorophenyl)azo]-4-[(2-hydroxyethyl)amino]pyrimidine (3.0 g, 9.2 mmol) were added ethanol (76.0 ml), water (76.0 ml) and acetic acid (8.0 ml), and the mixture was heated to 70° C. A zinc powder (7.52 g) was added portionwise with stirring in a nitrogen stream and the mixture was stirred at the same temperature for 1.5 hours to give a solution. The reaction mixture was filtered and the solvent of the filtrate was distilled away under reduced pressure. Water was added to the residue and the mixture was extracted with chloroform, washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to give pale-brown crystals (0.34 g, 18.3%), m.p. 164-167° C.

reactant | 2-amino-6-chloro-5-[(p-chlorophenyl)azo]-4-[(2-hydroxyethyl)amino]pyrimidine | 9.2 mmol, 3.0 g | NC1=NC(=C(C(=N1)NCCO)N=NC1=CC=C(C=C1)Cl)Cl | C12H12Cl2N6O
reactant | ethanol | 76.0 ml | C(C)O | C2H6O
reactant | water | 76.0 ml | O | H2O
catalyst | zinc | 7.52 g | [Zn] | Zn
solvent | acetic acid | 8.0 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-2,5-diamino-4-[(2-hydroxyethyl)amino]pyrimidine | 0.34 g, 18.3% | ClC1=C(C(=NC(=N1)N)NCCO)N | C6H10ClN5O
